US07186715B2
4-[2-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
The title compound was prepared by using Mitsunobu condition from 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester and 2-hydroxyethyl pyrrolidine.

reactant | 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | 2-hydroxyethyl pyrrolidine | OCCN1CCCC1 | C6H13NO
product | 4-[2-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCCN1CCCC1 | C21H33N3O3
